US06794395B1
3,4-diethoxy-phenylacetic acid
0.8 g of 3,4-dihydroxy-phenylacetic acid and 6.9 g of barium hydroxide octahydrate are dissolved in 50 ml of water and at ambient temperature 2.9 ml of diethylsulphate are added dropwise. The solution is stirred for 2 hours at ambient temperature and for 2 hours at 40° C. After this time the solution is acidified with saturated potassium hydrogen sulphate solution, mixed with ethyl acetate and the suspension is filtered through Celite. The phases are separated and the ethyl acetate phase is dried over sodium sulphate and concentrated by evaporation. The residue obtained is purified through a silica gel column with toluene/ethyl acetate/ethanol (4:2:1) as eluant.

reactant | 3,4-dihydroxy-phenylacetic acid | 0.8 g | OC=1C=C(C=CC1O)CC(=O)O | C8H8O4
reactant | barium hydroxide octahydrate | 6.9 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | potassium hydrogen sulphate | S(=O)(=O)(O)[O-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | diethylsulphate | 2.9 ml | C(C)OS(=O)(=O)OCC | C4H10O4S
solvent | water | 50 ml | O | H2O
product | 3,4-diethoxy-phenylacetic acid | C(C)OC=1C=C(C=CC1OCC)CC(=O)O | C12H16O4
